* HSPICE file created from BUFX1.ext - technology: sky130A

.option scale=5m

.subckt BUFX1 Y A VDD GND
X0 x1/m1_264_487 A GND GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.6n ps=0.592m w=602 l=30
X2 VDD A x1/m1_264_487 VDD sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X3 x1/m1_264_487 A VDD VDD sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X4 Y x1/m1_264_487 GND GND sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=91.3n ps=3.24m w=602 l=30
X5 VDD x1/m1_264_487 Y VDD sky130_fd_pr__pfet_01v8 ad=88n pd=3.64m as=23.2n ps=0.917m w=400 l=30
X6 Y x1/m1_264_487 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	bufx1_0
